US07579464B2
AlCl3 (12.1 g) was added to a solution of N-biphenyl-2-yl-2-chloro-acetamide (9.9 g) in 1,3-dichlorobenzene (99 mL). The reaction mixture was stirred for 24 hours at 170° C., cooled to 0° C. and poured into ice-water (1500 mL). The suspension obtained was filtered off, the precipitate washed with water (250 mL), 2 portions of hexane/dichloromethane 4:1 (25 mL), 2 portions of water (125 mL) and 2 portions of hexane (25 mL) affording 5H,7H-dibenzo[b,d]azepin-6-one (6.9 g, 82.5%) as an off-white powder.

reactant | AlCl3 | 12.1 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | N-biphenyl-2-yl-2-chloro-acetamide | 9.9 g | C1(=C(C=CC=C1)NC(CCl)=O)C1=CC=CC=C1 | C14H12ClNO
solvent | 1,3-dichlorobenzene | 99 mL | ClC1=CC(=CC=C1)Cl | C6H4Cl2
product | 5H,7H-dibenzo[b,d]azepin-6-one | 6.9 g, 82.5% | C1=CC=CC=2NC(CC3=C(C21)C=CC=C3)=O | C14H11NO
